US04696931
2-(2'-Methoxy-4'-dimethylaminosulfonyl-phenyl)-imidazo[4,5-b]pyridine hydrochloride
The crude 2-(2'-methoxy-4'-chlorosulfonyl-phenyl)-imidazo[4,5-b]pyridine hydrochloride prepared from 2.5 gm of 2-methoxy-4-chlorosulfonyl-benzoic acid according to Example C was added to 150 ml of a saturated aqueous dimethylamine solution at 10° C., under stirring, and a light-colored precipitate formed slowly. After stirring for 20 hours at ambient temperature, 200 ml of ice water were added. The precipitate was dried and then taken up in 60 ml of methanol, and 10 ml of methanolic hydrochloric acid were added. After filtering over active charcoal, the solvent was eliminated, and the residue remaining was digested with acetone and ether, subjected to suction filtration, and washed with ether.

reactant | 2-(2'-methoxy-4'-chlorosulfonyl-phenyl)-imidazo[4,5-b]pyridine hydrochloride | Cl.COC1=C(C=CC(=C1)S(=O)(=O)Cl)C=1NC=2C(=NC=CC2)N1
reactant | 2-methoxy-4-chlorosulfonyl-benzoic acid | 2.5 gm | COC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)Cl | C8H7ClO5S
reactant | dimethylamine | 150 ml | CNC | C2H7N
product | 2-(2'-Methoxy-4'-dimethylaminosulfonyl-phenyl)-imidazo[4,5-b]pyridine hydrochloride | Cl.COC1=C(C=CC(=C1)S(=O)(=O)N(C)C)C=1NC=2C(=NC=CC2)N1 | InChI=1S/C15H16N4O3S.ClH/c1-19(2)23(20,21)10-6-7-11(13(9-10)22-3)14-17-12-5-4-8-16-15(12)18-14;/h4-9H,1-3H3,(H,16,17,18);1H
